US08975254B2
b) 3-tert-butyl-N-(2-(5-(3-chloro-4-cyano-2-methylphenyl)furan-2-yl)ethyl)-1H-pyrazole-5-carboxamide
4-amino-2-chloro-3-methylbenzonitrile (0.200 g, 1.20 mmol) was added to a solution of water (2 ml) and conc. HCl (2 ml) and the mixture was stirred vigorously, heated to 80° C. for 15 min and then cooled to −10° C. Sodium nitrite (0.091 g, 1.32 mmol) was dissolved in 0.5 ml of water and added drop wise to the cooled reaction mixture. After 40 min, the mixture was filtered and 3-tert-butyl-N-(2-(furan-2-yl)-ethyl)-1H-pyrazole-5-carboxamide (0.345 g, 1.32 mmol) dissolved in acetone (3 ml) was added to the filtrate. Then, a solution of iron (II) chloride tetrahydrate in water (3 ml) was added portion wise and the mixture was stirred for 15 h at RT. Water (25 ml) was added to the reaction mixture and extracted three times with EtOAc. The combined organic layers were washed with saturated aqueous NaHCO3 and water and dried with Na2SO4, filtered and evaporated to dryness. CombiFlash purification afforded 0.013 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.34 (s, 9H), 3.03 (t, 2H), 3.77 (m, 2H), 6.28 (d, 1H), 6.62 (m, 2H), 7.12 (m, 1H), 7.50 (d, 1H), 7.65 (d, 1H).

reactant | 4-amino-2-chloro-3-methylbenzonitrile | 1.20 mmol, 0.200 g | NC1=C(C(=C(C#N)C=C1)Cl)C | C8H7ClN2
reactant | HCl | 2 ml | Cl | ClH
reactant | Sodium nitrite | 1.32 mmol, 0.091 g | N(=O)[O-].[Na+]
reactant | 3-tert-butyl-N-(2-(furan-2-yl)-ethyl)-1H-pyrazole-5-carboxamide | 1.32 mmol, 0.345 g | C(C)(C)(C)C1=NNC(=C1)C(=O)NCCC=1OC=CC1 | C14H19N3O2
solvent | water | 0.5 ml | O | H2O
solvent | acetone | 3 ml | CC(=O)C | C3H6O
solvent | water | 3 ml | O | H2O
catalyst | iron (II) chloride tetrahydrate | O.O.O.O.[Fe](Cl)Cl
solvent | Water | 25 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | 3-tert-butyl-N-(2-(5-(3-chloro-4-cyano-2-methylphenyl)furan-2-yl)ethyl)-1H-pyrazole-5-carboxamide | 0.013 g | C(C)(C)(C)C1=NNC(=C1)C(=O)NCCC=1OC(=CC1)C1=C(C(=C(C=C1)C#N)Cl)C | C22H23ClN4O2
